US05965559
Using an analogous procedure to that described in Example 20, 4-(6-bromonaphth-2-ylsulphonyl)-2-carboxy-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine was reacted with morpholine to give 4-(6-bromonaphth-2-ylsulphonyl)-2-morpholinocarbonyl-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine in 60% yield, m.p. 235-237° C.;

reactant | 4-(6-bromonaphth-2-ylsulphonyl)-2-carboxy-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)O | C26H27BrN4O5S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-(6-bromonaphth-2-ylsulphonyl)-2-morpholinocarbonyl-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 60% yield | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)N1CCOCC1 | C30H34BrN5O5S
